US04623650
3-Bromo-2,4-difluoronitrobenzene
A mixture of 10 ml concentrated HNO3 and 10 ml concentrated H2SO4 was added dropwise with cooling to a stirred solution of 30 g 2,6-difluorobromobenzene in 50 ml of concentrated sulfuric acid. The rate of addition was controlled such that the temperature of the mixture did not rise above 55° C. After the addition was complete the reaction mixture was allowed to stir at room temperature for 2 hours. It was then poured onto ice and the resulting solid was collected by filtration, washed with water and dried, yielding a pale yellow solid, m.p. 50°-51.5° C., 84% yield (31.2 g).

reactant | HNO3 | 10 ml | [N+](=O)(O)[O-] | HNO3
reactant | 2,6-difluorobromobenzene | 30 g | FC1=C(C(=CC=C1)F)Br | C6H3BrF2
solvent | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
solvent | H2SO4 | 10 ml | OS(=O)(=O)O | H2O4S
product | 3-Bromo-2,4-difluoronitrobenzene | 84% yield | BrC=1C(=C(C=CC1F)[N+](=O)[O-])F | C6H2BrF2NO2
